US09278915B2
Intermediate 151: 2-[4-(Bromomethyl)phenoxy]-1-phenylethanone
To a 50 mL RB flask charged with 2-[4-(hydroxymethyl)phenoxy]-1-phenylethanone (10 g, 41.2 mmol) in DCM was added phosphorus tribromide (16.76 g, 61.9 mmol) in drops over period of 5 min at 0° C. Reaction mixture was stirred at RT for 1 h and then quenched with ice-water. Diluted it with excess DCM, washed with water, sat.NaHCO3 solution and brine solution successively. Organic phase was dried over anhydrous Na2SO4 and concentrated to afford product (9 g, Yield: 71.4%); 1H NMR (300 MHz, DMSO-d6): δ 7.90-7.93 (t, 2H), 7.53-7.58 (t, 1H), 7.41-7.46 (t, 2H), 7.23-7.26 (d, 2H), 6.81-6.84 (t, 2H), 5.20 (s, 2H), 4.40 (s, 2H).

reactant | 2-[4-(hydroxymethyl)phenoxy]-1-phenylethanone | 41.2 mmol, 10 g | OCC1=CC=C(OCC(=O)C2=CC=CC=C2)C=C1 | C15H14O3
reactant | phosphorus tribromide | 61.9 mmol, 16.76 g | P(Br)(Br)Br | Br3P
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-[4-(Bromomethyl)phenoxy]-1-phenylethanone | 9 g, Yield: 71.4% | BrCC1=CC=C(OCC(=O)C2=CC=CC=C2)C=C1 | C15H13BrO2
